US06900216B2
Approximately 5 ml of a solution of 4-bromobenzo[b]thiophene (2.87 g; prepared in a manner similar to that described in Example 9 Method A) in tetrahydrofuran (30 ml) was added under nitrogen to magnesium turnings (0.45 g). Two crystals of iodine were added and heat was applied to initiate the reaction. The remainder of the 4-bromobenzo[b]thiophene solution was added at reflux temperature over 20 minutes, then the mixture was heated under reflux for a further 15 minutes. A solution of N-methoxy-N,3-dimethylpropionamide (2.12 g) in tetrahydrofuran (15 ml) was added, the mixture was heated under reflux for 30 minutes, then it was cooled to ambient temperature and quenched by the addition of 2M hydrochloric acid (30 ml). The mixture was stirred at ambient temperature for 1.5 hours, then the product was extracted into ethyl acetate (150 ml). The combined extracts were washed with water (2×100 ml) and saturated aqueous sodium chloride solution (200 ml), dried (MgSO4), and the solvents were removed in vacuo. The residue was purified by Biotage flash chromatography over silica using a 97:3 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(benzo[b]thiophen-4-yl)-3-methylpropan-1-one (1.7 g) as a colourless oil which was used without further purification.

reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | magnesium | 0.45 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | N-methoxy-N,3-dimethylpropionamide | 2.12 g | CON(C(CCC)=O)C | C6H13NO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-(benzo[b]thiophen-4-yl)-3-methylpropan-1-one | 1.7 g | S1C2=C(C=C1)C(=CC=C2)C(CCC)=O | C12H12OS
